US06340759B1
Synthesis of 3-(2-propylcarbonylaminopyridin-5-yl)-1-(4-ethylpiperazin-1-yl)isoquinoline hydrochloride
In the same manners sequentially as in Examples 161-2 and 20, the free compound of the title compound (338 mg, yield; 40%) from 5-bromo-2-propylcarbonylaminopyridine (3.11 g) and 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline (514 mg). The resulting free compound was converted into a hydrochloride in a conventional manner, to give the hydrochloride of the title compound as yellow crystals.

reactant | 5-bromo-2-propylcarbonylaminopyridine | 3.11 g | BrC=1C=CC(=NC1)NC(=O)CCC | C9H11BrN2O
reactant | 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 514 mg | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
reactant | hydrochloride | Cl | ClH
product | 3-(2-propylcarbonylaminopyridin-5-yl)-1-(4-ethylpiperazin-1-yl)isoquinoline hydrochloride | Cl.C(CC)C(=O)NC1=NC=C(C=C1)C=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | InChI=1S/C24H29N5O.ClH/c1-3-7-23(30)27-22-11-10-19(17-25-22)21-16-18-8-5-6-9-20(18)24(26-21)29-14-12-28(4-2)13-15-29;/h5-6,8-11,16-17H,3-4,7,12-15H2,1-2H3,(H,25,27,30);1H
